US07250410B2
3-benzyl-8-ethoxy-1-ethyl-7-methoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIbb.
By replacing 5-(4-bromophenyl)-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIaf) in example IIba by 3-benzyl-8-ethoxy-7-methoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIbb), and methyl iodide by ethyl iodide, and proceeding in the same manner, the abovenamed product is obtained. Yield: 65%. F: 228–230° C. 1H-NMR (CDCl3, 300 MHz): d 1.03–1.08 (m, 3H, NCH2CH3), 1.50–1.54 (m, 3H, OCH2CH3), 3.59–3.65 (m, 3H, 1HNCH2+CH2Bn), 3.70 (s, 3H, OCH3), 3.77–3.83 (m, 1H, 1CH), 4.12–4.18 (m, 2H, OCH2), 4.30–4.41 (m, 1H, 1HNCH2), 6.62 (s, 1H Ar), 6.79 (s, 1H Ar), 7.22–7.59 (m, 10H Ar).

reactant | 3-benzyl-8-ethoxy-7-methoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | C(C1=CC=CC=C1)C1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C(=C2)OCC)OC)=O | C25H24N2O3
reactant | methyl iodide | CI | CH3I
reactant | ethyl iodide | C(C)I | C2H5I
product | 3-benzyl-8-ethoxy-1-ethyl-7-methoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 65% | C(C1=CC=CC=C1)C1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C(=C2)OCC)OC)CC)=O | C27H28N2O3
